US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (170 mg) is dissolved in ethanol (2 ml), and thereto is added 2N-aqueous sodium hydroxide solution (352 μl) and the mixture is stirred at room temperature for 1.5 hours and concentrated under reduced pressure. To the residue are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (147 mg). The resulting carboxylic acid is dissolved in ethanol (1 ml) and thereto is added 2N-aqueous sodium hydroxide solution (106 μl) and the reaction solution is concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid sodium salt (151 mg). MS (m/z): 695 [M−Na]−

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 170 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C32H33F9N4O5
reactant | sodium hydroxide | 352 μl | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 147 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C30H29F9N4O5
